US04814342
A. ethyl 2-morpholino-3-phenylpropionate
A solution of 2.0 g ethyl 2-bromo-3-phenylpropionate and 2.8 g morpholine in 5 mL DMF was stirred overnight at RT. The mixture was diluted with 75 mL 1% HCl and washed 3×50 mL ether. The aqueous phase was made basic and extracted 3×100 mL EtOAc. The combined extracts were dried over MgSO4, filtered and concentrated. The residue was chromatographed (35% EtOAc:Hex) to afford 0.8 g pure product. NMR (300 MHz, CDCl3) delta 1.12 (t, J=7 Hz, 3H), 3.36 (m, 1H), 4.04 (m, 2H).

reactant | ethyl 2-bromo-3-phenylpropionate | 2.0 g | BrC(C(=O)OCC)CC1=CC=CC=C1 | C11H13BrO2
reactant | morpholine | 2.8 g | N1CCOCC1 | C4H9NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | HCl | 75 mL | Cl | ClH
product | ethyl 2-morpholino-3-phenylpropionate | 0.8 g | O1CCN(CC1)C(C(=O)OCC)CC1=CC=CC=C1 | C15H21NO3
